US09290476B2
2-(4-Chlorobenzyl)malonic acid
A solution of 5-(4-chlorobenzyl)-2,2-dimethyl-1,3-dioxane-4,6-dione (1.50 g, 5.58 mmol, Intermediate 3: step a) and 3 M aqueous NaOH (16 mL) was heated in the microwave at 75 W for 20 minutes at 120° C. The aqueous mixture was extracted with EtOAc (1×) then acidified to pH 1 with concentrated aqueous HCl and extracted with EtOAc (2×). The combined EtOAc extract was washed with H2O, brine and dried over Na2SO4, filtered. Solvents were removed under reduced pressure to afford the title compound as a white solid.

reactant | 5-(4-chlorobenzyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | ClC1=CC=C(CC2C(OC(OC2=O)(C)C)=O)C=C1 | C13H13ClO4
reactant | NaOH | 3 M, 16 mL | [OH-].[Na+]
product | 2-(4-Chlorobenzyl)malonic acid | ClC1=CC=C(CC(C(=O)O)C(=O)O)C=C1 | C10H9ClO4
